US09315458B2
G) methyl 4-ethyl-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)-2-(((trifluoromethyl)sulfonyl)oxy)benzoate
To a solution of methyl 4-ethyl-2-hydroxy-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)benzoate (0.26 g) and N-phenylbis(trifluoromethanesulfonimide) (0.29 g) in DMF (3.00 mL) was added sodium hydride (0.04 g) under ice-cooling, and the mixture was stirred at room temperature for 1 hr under argon atmosphere. The reaction mixture was diluted with ethyl acetate, and the mixture was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.32 g).

reactant | methyl 4-ethyl-2-hydroxy-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)benzoate | 0.26 g | C(C)C1=CC(=C(C(=O)OC)C=C1CC1=CC=C(C=C1)C1=NN(C=C1)C)O | C21H22N2O3
reactant | N-phenylbis(trifluoromethanesulfonimide) | 0.29 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | sodium hydride | 0.04 g | [H-].[Na+]
solvent | DMF | 3.00 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-ethyl-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)-2-(((trifluoromethyl)sulfonyl)oxy)benzoate | 0.32 g | C(C)C1=CC(=C(C(=O)OC)C=C1CC1=CC=C(C=C1)C1=NN(C=C1)C)OS(=O)(=O)C(F)(F)F | C22H21F3N2O5S
